US08247430B2
(4-Aminomethyl-pyridin-2-yl)-(4-methoxy-benzyl)-amine
2-(4-Methoxy-benzylamino)-isonicotinonitrile (12 g, 50 mmole) was dissolved in a mixed solvent of EtOH (800 mL) Et3N (200 mL) and suspended with 2 g of Pd/C (10%). After removing air with vacuum, the flask was charged with H2 with a balloon. The H2 balloon was refilled every morning and evening. Pd/C was recharged twice (1.3 g each) on days 2 and 3. Reaction was completed on the 4th day and the reaction mixture was filtered through a pad of Celite®. The filter cake was rinsed with MeOH and the combined filtrate was concentrated in vacuo to give the desired compound as a light brown solid.

reactant | 2-(4-Methoxy-benzylamino)-isonicotinonitrile | 50 mmole, 12 g | COC1=CC=C(CNC=2C=C(C#N)C=CN2)C=C1 | C14H13N3O
solvent | EtOH | 800 mL | CCO | C2H6O
catalyst | Pd/C | 2 g | [Pd] | Pd
product | (4-Aminomethyl-pyridin-2-yl)-(4-methoxy-benzyl)-amine | NCC1=CC(=NC=C1)NCC1=CC=C(C=C1)OC | C14H17N3O
